US04013692
Potassium hydroxide (85%, 49 g.), 7-cyanomethyl-3-(4-fluorophenyl)benzofuran (48.8 g., 0.194 mole) and 95% ethanol (500 ml.) are mixed and heated at reflux temperature overnight under a nitrogen atmosphere. The mixture is then concentrated by evaporation in vacuo, diluted with water and extracted with diethyl ether. The aqueous phase is filtered, then acidified by the slow addition of hydrochloric acid. The solid is collected by filtration and recrystallized from aqueous ethanol (65%) with treatment with decolorizing charcoal, giving yellow crystals. Another recrystallization from an ethanol-petroleum ether mixture (about 5:1) gives yellow crystals of 3-(4 -fluorophenyl)-7-benzofuranacetic acid, m.p. 169°-170° C.

reactant | Potassium hydroxide | 49 g | [OH-].[K+]
reactant | 7-cyanomethyl-3-(4-fluorophenyl)benzofuran | 0.194 mole, 48.8 g | C(#N)CC1=CC=CC=2C(=COC21)C2=CC=C(C=C2)F | C16H10FNO
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | 3-(4 -fluorophenyl)-7-benzofuranacetic acid | FC1=CC=C(C=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)O | C16H11FO3
